tb_trim.cir - L16: the common trim on the variable-output branch. Attenuation, E3 (Zin at the connector) and E5 (output noise of the chain)
* Prima riga = titolo (docs/limitations.md #10).
*
* WHAT IS UNDER TEST (L16, ADR-027; the user's decision "B", 2026-09-14). One
* trim for all inputs, on the VARIABLE-output branch only, per channel:
*
*   block A OUT --RL1-- TAP6 --RL2-- TAP12 --RL3-- 0
*
*   T1 (bistable): reset -> attenuator top ATOP to block A OUT (0 dB)
*                  set   -> ATOP to T2's COM
*   T2 (bistable): reset -> TAP6 (-6 dB), set -> TAP12 (-12 dB)
*
* The two fixed-output buffers hang on block A's OUT, BEFORE the trim: the
* fixed outputs stay a faithful copy of the source (F2, ADR-027). They are a
* JFET gate behind 100 ohm each and are omitted here.
*
* The ladder is loaded by the 10 k stepped attenuator (F4) at the selected tap:
* the attenuation printed below includes it.
*
* CONTACTS. Closed = 0.1 ohm, open = 1 GOhm, 15 pF across every contact (the
* stray L27 used for the gain relays; the G6K(U) datasheet gives none).
*
* THE TWO CANDIDATE LADDERS, E96, from data/2026-09-14/L16/esplorazione/script/
* trim_ramo_e96.py (+/-0.1 dB with the 10 k load):
*   cand 1  549 / 294 / 294   load on block A >= 1.02 k, R_th <= 284 ohm
*   cand 2  845 / 464 / 464   load on block A >= 1.51 k, R_th <= 442 ohm
*
* E3. The connector is the selected input, in front of block A: Zin is block
* A's (R113 = R_IN 1 MOhm, bootstrapped gate) and must NOT depend on the trim
* position. REQUIREMENTS "Nota su E3": minimum of |Zin| over 20 Hz - 20 kHz,
* in every trim position. CSEL (selector + wiring to ground, not designed in
* L16) is swept 1 fF - 68 pF.
*
* E5. trim -> attenuator -> block B -> 47 ohm -> 4.7 uF -> jack (220 k, 100 k).
* Attenuator at MAX and at MID travel (2.5 k, the E5 reference of
* tb_zout_psrr_noise.cir); source K11 1.5 ohm and phono 430 ohm; pos 99 = NO
* TRIM (ladder cut, T1 reset), the reference. Block B's subckt carries R113
* (1 MOhm to 0) the real block B has not: negligible across <= 2.6 k.
* Verdict: <= 9.90 uV (E5 minus the 1 uV quotas of ADR-020 and ADR-022).
*
* Both blocks are subcircuits: no node of this deck can collide with a node of
* a block (limitations #24). Every RG/RG10 port is terminated (#27).
* NOISE IS A FLOOR (KF = 0 on every model, the LSK489's LSK489X placeholder
* too: NC-004, NC-031).
*
* TABLES (echo; no wrdata writes these names, #25):
*   tb_trim_e3.csv  cand,r1,r2,r3,pos,csel,zmin_ohm,z20_ohm,z1k_ohm,z20k_ohm,att1k_db
*   tb_trim_e5.csv  cand,pos,mode,att,rsrc,onoise_uv
* Path convention: tb_op.cir (L2).

.include /Users/roberto/EDA/.claude/worktrees/L39/models/jfet/lsk489.lib
.include /Users/roberto/EDA/.claude/worktrees/L39/models/bjt_npn/mmbt5551.lib
.include /Users/roberto/EDA/.claude/worktrees/L39/models/bjt_pnp/mmbt5401.lib
.include /Users/roberto/EDA/.claude/worktrees/L39/models/bjt_npn/mje15032.lib
.include /Users/roberto/EDA/.claude/worktrees/L39/models/bjt_pnp/mje15033.lib
.include /Users/roberto/EDA/.claude/worktrees/L39/models/diodes/1n4148.lib
* L22: the input current mirror is an LS352 (ADR-018), vendor model.
.include /Users/roberto/EDA/.claude/worktrees/L39/models/bjt_pnp/ls350.lib
.include /Users/roberto/EDA/.claude/worktrees/L39/spice/preamp/gain_block.subckt

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15

* --- the selected source and what the selector adds ---
VSRC  VSN 0 DC 0 AC 1
RSRC  VSN AIN 1.5
CSEL  AIN 0 1f

* --- block A, unity gain, relay leg not fitted ---
XA AIN AOUT AFB ARG ARG10 VPLUS VMINUS GAINBLOCK
RARG   ARG   0 1G
RARG10 ARG10 0 1G

* --- the trim ladder (cand 1 by default, altered in .control) ---
RL1 AOUT TAP6 549
RL2 TAP6 TAP12 294
RL3 TAP12 0 294

* --- the trim contacts ---
RT1R AOUT ATOP 0.1
CT1R AOUT ATOP 15p
RT1S T2C ATOP 1G
CT1S T2C ATOP 15p
RT2R TAP6 T2C 0.1
CT2R TAP6 T2C 15p
RT2S TAP12 T2C 1G
CT2S TAP12 T2C 15p

* harness to the front-panel attenuator (ADR-024: block A judged at <= 1 nF)
CWIRE ATOP 0 100p

* --- the 10 k stepped attenuator: top and bottom of the wiper ---
RATTH ATOP BIN 1m
RATTL BIN 0 10k

* --- block B, 0 / +3 / +10 dB ---
XB BIN BOUT BFB BRG BRG10 VPLUS VMINUS GAINBLOCK
CSTB    BRG   0 15p
RRGB    BRG   0 1G
CSTB10  BRG10 0 15p
RRG10B  BRG10 0 1G

RISO   BOUT BOUTA 47
COUT   BOUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k

.control
* ===================== attenuation and E3 =====================
echo "cand,r1,r2,r3,pos,csel,zmin_ohm,z20_ohm,z1k_ohm,z20k_ohm,att1k_db" > tb_trim_e3.csv
alter rsrc = 1m
foreach cand 1 2
  if $cand = 1
    set r1v = "549"
    set r2v = "294"
    set r3v = "294"
  end
  if $cand = 2
    set r1v = "845"
    set r2v = "464"
    set r3v = "464"
  end
  alter rl1 = $r1v
  alter rl2 = $r2v
  alter rl3 = $r3v
  foreach pos 99 0 6 12
    alter rl1 = $r1v
    if $pos = 99
      alter rl1 = 1e12
      alter rt1r = 0.1
      alter rt1s = 1G
      alter rt2r = 0.1
      alter rt2s = 1G
    end
    if $pos = 0
      alter rt1r = 0.1
      alter rt1s = 1G
      alter rt2r = 0.1
      alter rt2s = 1G
    end
    if $pos = 6
      alter rt1r = 1G
      alter rt1s = 0.1
      alter rt2r = 0.1
      alter rt2s = 1G
    end
    if $pos = 12
      alter rt1r = 1G
      alter rt1s = 0.1
      alter rt2r = 1G
      alter rt2s = 0.1
    end
    foreach cs 1f 22p 68p
      alter csel = $cs
      ac dec 50 20 20k
      let zmag = mag(v(ain)/(-i(vsrc)))
      let attdb = db(v(atop)/v(aout))
      meas ac zmin min zmag from=20 to=20000
      meas ac z20 find zmag at=20
      meas ac z1k find zmag at=1000
      meas ac z20k find zmag at=20000
      meas ac att1k find attdb at=1000
      echo "E3 cand=$cand pos=$pos csel=$cs"
      print zmin z20 z1k z20k att1k
      echo "$cand,$r1v,$r2v,$r3v,$pos,$cs,$&zmin,$&z20,$&z1k,$&z20k,$&att1k" >> tb_trim_e3.csv
      destroy all
    end
  end
end
alter csel = 1f

* ===================== E5: output noise of the chain =====================
echo "cand,pos,mode,att,rsrc,onoise_uv" > tb_trim_e5.csv
foreach cand 1 2
  if $cand = 1
    set r1v = "549"
    alter rl2 = 294
    alter rl3 = 294
  end
  if $cand = 2
    set r1v = "845"
    alter rl2 = 464
    alter rl3 = 464
  end
  foreach pos 99 0 6 12
    alter rl1 = $r1v
    if $pos = 99
      alter rl1 = 1e12
      alter rt1r = 0.1
      alter rt1s = 1G
      alter rt2r = 0.1
      alter rt2s = 1G
    end
    if $pos = 0
      alter rt1r = 0.1
      alter rt1s = 1G
      alter rt2r = 0.1
      alter rt2s = 1G
    end
    if $pos = 6
      alter rt1r = 1G
      alter rt1s = 0.1
      alter rt2r = 0.1
      alter rt2s = 1G
    end
    if $pos = 12
      alter rt1r = 1G
      alter rt1s = 0.1
      alter rt2r = 1G
      alter rt2s = 0.1
    end
    foreach mode 0 3 10
      if $mode = 0
        set gm = "0db"
        alter rrgb = 1G
        alter rrg10b = 1G
      end
      if $mode = 3
        set gm = "3db"
        alter rrgb = 0.1
        alter rrg10b = 1G
      end
      if $mode = 10
        set gm = "10db"
        alter rrgb = 0.1
        alter rrg10b = 0.1
      end
      foreach at 1 2
        if $at = 1
          set ga = "max"
          alter ratth = 1m
          alter rattl = 10k
        end
        if $at = 2
          set ga = "mid"
          alter ratth = 5k
          alter rattl = 5k
        end
        foreach rs 1.5 430
          alter rsrc = $rs
          noise v(JACK) VSRC dec 50 20 20000 1
          setplot noise2
          let onu = onoise_total*1e6
          echo "E5 cand=$cand pos=$pos mode=$gm att=$ga rsrc=$rs"
          print onu
          echo "$cand,$pos,$gm,$ga,$rs,$&onu" >> tb_trim_e5.csv
          destroy all
        end
      end
    end
  end
end
.endc

.end
